US07217724B2
A solution of tert-butyl (R)-{2-[7-(2-methanesulfonylamino-2-oxoethoxy)-1H-indol-3-yl]-1-methylethyl}carbamate (0.14 g, 0.33 mmol) and trifluoroacetic acid (1 mL) in methylene chloride (4 mL) is stirred at room temperature for 8 hours. The mixture is concentrated to give the desired (R)—N-{2-[3-(2-aminopropyl)-1H-indol-7-yloxy]acetyl}methane-sulfonamide.trifluoroacetate (0.13 g, yield: 90%).

reactant | tert-butyl (R)-{2-[7-(2-methanesulfonylamino-2-oxoethoxy)-1H-indol-3-yl]-1-methylethyl}carbamate | 0.33 mmol, 0.14 g | CS(=O)(=O)NC(COC=1C=CC=C2C(=CNC12)C[C@@H](C)NC(OC(C)(C)C)=O)=O | C19H27N3O6S
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-{2-[3-(2-aminopropyl)-1H-indol-7-yloxy]acetyl}methane-sulfonamide | N[C@@H](CC1=CNC2=C(C=CC=C12)OCC(=O)NS(=O)(=O)C)C | C14H19N3O4S
